US07338959B2
N2-Isopropyl-N5-[2-(3-methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine hydrochloride
The title compound was prepared following the procedure of example 1 with N5-(2-chloropyrimidin-4-yl)-N2-isopropyl-N5,1-dimethyl-1H-benzimidazole-2,5-diamine (83 mg, 0.25 mmol) and 3-Methanesulfonylmethyl-phenylamine (46 mg, 0.25 mmol) as a white solid (69 mg, 53%). 1H NMR (300 MHz, d6-DMSO) δ 9.20 (s, 1H), 7.90 (s, 1H), 7.77 (d, J=6.0 Hz, 1H), 7.69 (d, J=8.1 Hz, 1H), 7.18-7.25 (m, 2H), 7.09 (d, J=1.8 Hz, 1H), 6.91 (d, J=7.5 Hz, 1H), 6.82 (dd, J=8.1 and 1.8 Hz, 1H), 6.49 (d, J=7.5 Hz, 1H), 5.64 (d, J=6.0 Hz, 1H), 4.34 (s, 2H), 4.03 (m, 1H), 3.51 (s, 3H), 3.43 (s, 3H), 2.89 (s, 3H), 1.24 (d, J=6.6 Hz, 6H) ppm. MS (ESI) m/z=480 [M+H]+.

reactant | N5-(2-chloropyrimidin-4-yl)-N2-isopropyl-N5,1-dimethyl-1H-benzimidazole-2,5-diamine | 0.25 mmol, 83 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC(C)C)C)C=C1)C | C16H19ClN6
reactant | 3-Methanesulfonylmethyl-phenylamine | 0.25 mmol, 46 mg | CS(=O)(=O)CC=1C=C(C=CC1)N | C8H11NO2S
product | N2-Isopropyl-N5-[2-(3-methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine hydrochloride | Cl.C(C)(C)NC1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)NC2=CC(=CC=C2)CS(=O)(=O)C | InChI=1S/C24H29N7O2S.ClH/c1-16(2)26-24-28-20-14-19(9-10-21(20)31(24)4)30(3)22-11-12-25-23(29-22)27-18-8-6-7-17(13-18)15-34(5,32)33;/h6-14,16H,15H2,1-5H3,(H,26,28)(H,25,27,29);1H
